US07935725B2
Step D: 3,8-Diaza-bicyclo[3.2.1]octane-3-carboxylic acid amide hydrochloride.
A solution of 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (2.5 g, 11.7 mmol) in CH2Cl2 (50 mL) was treated with trimethylsilyl isocyanate (14 mL, 117 mmol). The resultant mixture was stirred at rt for 4 h., concentrated and redissolved in CH2Cl2 (50 mL). To this solution was added HCl (4.0 N in 1,4-dioxane, 12 mL), and the resultant mixture was stirred at rt for 3 h. Concentration afforded the title compound as a white powder (2.4 g, 99%). MS (ESI): mass calcd. for C7H13N3O, 155.1; m/z found, 156.2 [M+H]+.

reactant | 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 11.7 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
reactant | trimethylsilyl isocyanate | 117 mmol, 14 mL | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3,8-Diaza-bicyclo[3.2.1]octane-3-carboxylic acid amide hydrochloride | 2.4 g, 99% | Cl.C12CN(CC(CC1)N2)C(=O)N | InChI=1S/C7H13N3O.ClH/c8-7(11)10-3-5-1-2-6(4-10)9-5;/h5-6,9H,1-4H2,(H2,8,11);1H
